US08357679B2
B: 1-(4-(4-Benzylpiperazine-1-carbonyl)-2-fluorophenyl)-3-(2-cyano-2-methylpropyl)urea
(4-Amino-3-fluorophenyl)(4-benzylpiperazin-1-yl)methanone and Hunig's base (32.5 mmol, 5.38 mL, 4.21 g) were stirred in dichloromethane. Triphosgene (3.54 mmol, 1.051 g) was added and the reaction stirred at ambient temperature for 30 minutes. 3-Amino-2,2-dimethylpropanenitrile hydrochloride (9.57 mmol, 1.289 g) was added and the reaction stirred for a further 30 minutes. The reaction mixture was washed with water and the organic layer concentrated under reduced pressure. The resulting residue was purified by silica column chromatography (eluant dichloromethane/methanol 0% to 5%) to afford the title compound (1.809 g). MS (ESI) m/z 438.1 [M+H]+

reactant | (4-Amino-3-fluorophenyl)(4-benzylpiperazin-1-yl)methanone | NC1=C(C=C(C=C1)C(=O)N1CCN(CC1)CC1=CC=CC=C1)F | C18H20FN3O
reactant | Hunig's base | 32.5 mmol, 5.38 mL, 4.21 g | CCN(C(C)C)C(C)C | C8H19N
reactant | Triphosgene | 3.54 mmol, 1.051 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | 3-Amino-2,2-dimethylpropanenitrile hydrochloride | 9.57 mmol, 1.289 g | Cl.NCC(C#N)(C)C
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1-(4-(4-Benzylpiperazine-1-carbonyl)-2-fluorophenyl)-3-(2-cyano-2-methylpropyl)urea | 1.809 g | C(C1=CC=CC=C1)N1CCN(CC1)C(=O)C1=CC(=C(C=C1)NC(=O)NCC(C)(C)C#N)F | C24H28FN5O2
